US07557215B2
3-Hydroxy-piperidin-1-yl-acetonitrile (S1)
BrCH2CN (3.19 g, 25.82 mmol) was added dropwise to a solution of 3-hydroxypiperidine (6.53 g, 64.55 mmol) in dry THF (25 mL) under N2, maintaining the temperature between 45-50° C. Following addition of BrCH2CN, the solution was refluxed for 30 min., before allowing the solution to cool down to room temperature. The solvent was removed in vacuo and the residual oil was purified by flash chromatography using CH2Cl2:CH3OH (9:1) as eluent. The title compound was obtained as a straw-coloured oil (3.04 g, 83%). δh (250 MHz; CDCl3); 1.9-2.15 (m, 3H, CH2CH2CH2, 1×CH2CH2CHOH), 2.25 (m, 1H, 1×CH2CH2CHOH), 2.55 (d, OH), 2.85-3 (m, 3H, NCH2CH2, 1×NCH2CH), 3.1 (2×d, 1H, 1×NCH2CH), 3.9 (s, 2H, NCH2CN) and 4.3 (m, 1H, CH2CHOH); FAB MS, m/z (M+H)+141.

reactant | BrCH2CN | 25.82 mmol, 3.19 g | BrCC#N | C2H2BrN
reactant | 3-hydroxypiperidine | 64.55 mmol, 6.53 g | OC1CNCCC1 | C5H11NO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-Hydroxy-piperidin-1-yl-acetonitrile | OC1CN(CCC1)CC#N | C7H12N2O
